US06054605
2,3-dichloro-6-trifluoromethylbenzamide (Compound No. 21)
To a solution of 250 g of 2,3-dichloro-6-trifluoromethylbenzoic acid in 2 liters of benzene was added 5 drops of pyridine and 172 g of thionyl chloride and then the mixture was heated at reflux for 22 hours. After cooling down, the solution was concentrated under reduced pressure, and 2,3-dichloro-6-trifluoromethylbenzyl chloride obtained was added into 1 liter of 28% aqueous ammonia solution, which has been cooled down to 5° C. over 10 minutes with stirring. Then, the solution was further stirred for 1 hour at room temperature. The reaction mixture was extracted with ethyl acetate, and the extract was washed with water and then with saturated saline solution, and was dried over anhydrous magnesium sulfate. The solvent was distilled under reduced pressure, and the crude crystals obtained were washed with n-hexane and then filtered to give 229 g of the title compound(mp. 118-20° C.).

reactant | 2,3-dichloro-6-trifluoromethylbenzoic acid | 250 g | ClC1=C(C(=O)O)C(=CC=C1Cl)C(F)(F)F | C8H3Cl2F3O2
reactant | thionyl chloride | 172 g | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 1 liter | N | H3N
solvent | benzene | 2 liters | C1=CC=CC=C1 | C6H6
catalyst | pyridine | 5 drops | N1=CC=CC=C1 | C5H5N
product | 2,3-dichloro-6-trifluoromethylbenzamide | 229 g | ClC1=C(C(=O)N)C(=CC=C1Cl)C(F)(F)F | C8H4Cl2F3NO
